US07947691B2
3-Hydroxy-1-pyridin-2-ylmethyl-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione was alkylated with 2-chloromethylpyridine hydrochloride and subsequently deprotected to provide the title compound as a white solid.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O5S
reactant | 2-chloromethylpyridine hydrochloride | Cl.ClCC1=NC=CC=C1
product | 3-Hydroxy-1-pyridin-2-ylmethyl-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | ON1C(N(C2=C(C1=O)SC1=C2C=CC=C1)CC1=NC=CC=C1)=O | C16H11N3O3S
